### PR TITLE
[Merged by Bors] - feat: basic structural lemmas about finite crystallographic root pairings.

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Reduced.lean [hunk 1]
```diff
@@ -153,16 +168,65 @@ lemma pairing_neg_one_neg_four_iff' (h2 : IsSMulRegular R (2 : R)) :
...
+
+lemma linearIndependent_iff_coxeterWeightIn_ne_four :
+    LinearIndependent R ![P.root i, P.root j] ↔ P.coxeterWeightIn S i j ≠ 4 := by
+  rw [linearIndependent_iff_coxeterWeight_ne_four, ← P.algebraMap_coxeterWeightIn S,
+    ← map_ofNat (algebraMap S R), (algebraMap_injective S R).ne_iff]
+
+lemma coxeterWeightIn_eq_four_iff_not_linearIndependent :
+    P.coxeterWeightIn S i j = 4 ↔ ¬ LinearIndependent R ![P.root i, P.root j] := by
+  rw [← coxeterWeight_eq_four_iff_not_linearIndependent, ← P.algebraMap_coxeterWeightIn S,
+    ← map_ofNat (algebraMap S R), (algebraMap_injective S R).eq_iff]
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Reduced.lean:199]: Won't this also be something like
```suggestion
  rw [linearIndependent_iff_coxeterWeightIn_ne_four, not_not]
```
(untested)

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/LinearAlgebra/RootSystem/Reduced.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Reduced.lean:199]: Good point, done!

**Comment by ocfnash** [comment]
bors merge
